US05100895
5-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-2,3-dihydro-12-dimethylaminodiimidazo[1,5-a:1',2'-c]quinazoline
Dimethylamine was bubbled through a stirred suspension of 5-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-12-fluoro-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline (1.0 g, 3 mmol) in dry DMF (25 ml) for 5 min. at ambient temperature. Again after 2 h dimethylamine was passed through the reaction mixture for 5 min. and stirring was continued for one more hour. The resulting solution was evaporated in vacuo and the residue was treated with 4 ml of 1M NaOH and 20 ml of water. The insoluble material was filtered off, rinsed on the filter until the wash water was no longer basic, and dried. Recrystallization from isopropyl alcohol gave the title compound as pale yellow crystals, m.p. 148°-150° C. Yield 0.50 g (47%). (Compound 47).

reactant | Dimethylamine | CNC | C2H7N
reactant | 5-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-12-fluoro-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline | 3 mmol, 1.0 g | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N1C(C=3C(=CC=CC23)F)=NCC1 | C17H13FN6O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 5-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-2,3-dihydro-12-dimethylaminodiimidazo[1,5-a:1',2'-c]quinazoline | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N1C(C=3C(=CC=CC23)N(C)C)=NCC1 | C19H19N7O
